US07001897B2
To a solution of (N-t-butoxycarbonyl-N-isopropyl-amino)-acetic acid methyl ester (5.59 g, 24.2 mmol) in a mixture of methanol (112 ml) and distilled water (56 ml) was added 1M aqueous sodium hydroxide solution (37 ml) in an ice bath, and the mixture was stirred at room temperature for 7 hours. After checking the completion of the reaction, Dowex-50W was added thereto in the ice bath to adjust the pH of the reaction mixture to 5 to 4. The reaction mixture was filtered and the filtrate concentrated under reduced pressure to give (N-t-butoxycarbonyl-N-isopropyl-amino)acetic acid (5.25 g) as a crude product.

reactant | (N-t-butoxycarbonyl-N-isopropyl-amino)-acetic acid methyl ester | 24.2 mmol, 5.59 g | COC(CN(C(C)C)C(=O)OC(C)(C)C)=O | C11H21NO4
solvent | methanol | 112 ml | CO | CH4O
product | (N-t-butoxycarbonyl-N-isopropyl-amino)acetic acid | 5.25 g | C(C)(C)(C)OC(=O)N(C(C)C)CC(=O)O | C10H19NO4
